US06160160
The 2nd step is carried out analogously in further experiments B, C, and D at room temperature using the dibenzyl carbonate and hydrazine hydrate ratios given in Table 1. The amount and purity of benzyl carbazate that is obtained are likewise summarized in Table 1.

reactant | dibenzyl carbonate | C(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C15H14O3
reactant | hydrazine hydrate | O.NN
product | benzyl carbazate | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
